### PR TITLE
[Merged by Bors] - chore(Analysis): address a lot of porting notes

### PR DESCRIPTION
**Pull request by Vierkantor**
Go through all porting notes in the Analysis folder and address those with an obvious resolution. A few won'tfixes where Lean 4 is stricter about unfolding or where `@[simp]` attributes were already wrong; otherwise most are easily resolved.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Composition.lean [hunk 1]
```diff
@@ -235,7 +235,7 @@ theorem comp_coeff_zero (q : FormalMultilinearSeries 𝕜 F G) (p : FormalMultil
   have : {c} = (Finset.univ : Finset (Composition 0)) := by
     apply Finset.eq_of_subset_of_card_le <;> simp [Finset.card_univ, composition_card 0]
   rw [← this, Finset.sum_singleton, compAlongComposition_apply]
-  symm; congr! -- Porting note: needed the stronger `congr!`!
+  symm; congr!
```
Comment (Vierkantor) [inline Mathlib/Analysis/Analytic/Composition.lean:238]: Reasoning: The two sides are not obviously equal to me at all, so I think `congr!` makes sense.

File: Mathlib/Analysis/Analytic/Uniqueness.lean [hunk 2]
```diff
@@ -63,9 +63,7 @@ theorem Asymptotics.IsBigO.continuousMultilinearMap_apply_eq_zero {n : ℕ} {p :
     have h₂ :=
       calc
         ‖p fun _ => k • y‖ ≤ c * ‖k • y‖ ^ (n.succ + 1) := by
-          -- Porting note: now Lean wants `_root_.`
           simpa only [norm_pow, _root_.norm_norm] using ht (k • y) (δε (mem_ball_zero_iff.mpr h₁))
```
Comment (Vierkantor) [inline Mathlib/Analysis/Analytic/Uniqueness.lean:66]: Reasoning: that's how namespacing in Lean 4 works.

File: Mathlib/Analysis/BoxIntegral/Partition/Basic.lean [hunk 3]
```diff
@@ -195,7 +195,6 @@ theorem iUnion_def : π.iUnion = ⋃ J ∈ π, ↑J := rfl
 
 theorem iUnion_def' : π.iUnion = ⋃ J ∈ π.boxes, ↑J := rfl
 
--- Porting note: Previous proof was `:= Set.mem_iUnion₂`
```
Comment (Vierkantor) [inline Mathlib/Analysis/BoxIntegral/Partition/Basic.lean:198]: Reasoning: `∃ J ∈ π` elaborates differently between Lean 3 and 4. Also below.

File: Mathlib/Analysis/Calculus/FDeriv/Prod.lean [hunk 4]
```diff
@@ -395,7 +395,6 @@ theorem hasStrictFDerivAt_apply (i : ι) (f : ∀ i, F' i) :
   have h' : comp (proj i) id' = proj i := by ext; simp [id']
   rw [← h']; apply h; apply hasStrictFDerivAt_id
 
-@[simp 1100] -- Porting note: increased priority to make lint happy
 theorem hasStrictFDerivAt_pi :
```
Comment (Vierkantor) [inline Mathlib/Analysis/Calculus/FDeriv/Prod.lean:398]: Reasoning: This is easily proved by `simp`, so we can just delete the attribute.

File: Mathlib/Analysis/Calculus/Implicit.lean [hunk 5]
```diff
@@ -380,7 +380,6 @@ theorem implicitToPartialHomeomorph_fst (hf : HasStrictFDerivAt f f' a) (hf' : r
 @[simp]
 theorem implicitToPartialHomeomorph_apply_ker (hf : HasStrictFDerivAt f f' a) (hf' : range f' = ⊤)
     (y : ker f') : hf.implicitToPartialHomeomorph f f' hf' (y + a) = (f (y + a), y) :=
-  -- Porting note: had to add `haveI` (here and below)
```
Comment (Vierkantor) [inline Mathlib/Analysis/Calculus/Implicit.lean:383]: Reasoning: `FiniteDimensional.complete` has free variables and won't be a (local) instance. See also below.

File: Mathlib/Analysis/Fourier/RiemannLebesgueLemma.lean [hunk 6]
```diff
@@ -261,12 +254,14 @@ theorem tendsto_integral_exp_smul_cocompact (μ : Measure V) [μ.IsAddHaarMeasur
   have : (μ.map Aₘ).IsAddHaarMeasure := A.isAddHaarMeasure_map _
   convert (tendsto_integral_exp_smul_cocompact_of_inner_product (f ∘ A.symm) (μ.map Aₘ)).comp
     Adual.toHomeomorph.toCocompactMap.cocompact_tendsto' with w
-  rw [Function.comp_apply, integral_map_equiv]
+  -- Unfold `Adual` so `congr` can see through it.
+  simp only [Function.comp_apply, integral_map_equiv, Adual, ContinuousMap.toFun_eq_coe,
+    CocompactMap.coe_toContinuousMap, Homeomorph.toCocompactMap_toFun,
+    ContinuousLinearEquiv.coe_toHomeomorph, ContinuousLinearEquiv.arrowCongrSL_apply,
+    ContinuousLinearEquiv.coe_refl, ContinuousLinearMap.coe_comp', ContinuousLinearMap.coe_id']
```
Comment (Vierkantor) [inline Mathlib/Analysis/Fourier/RiemannLebesgueLemma.lean]: Not sure if this is a real improvement; will revert if requested.

File: Mathlib/Analysis/InnerProductSpace/Orientation.lean [hunk 7]
```diff
@@ -305,9 +305,9 @@ theorem volumeForm_map {F : Type*} [NormedAddCommGroup F] [InnerProductSpace ℝ
 theorem volumeForm_comp_linearIsometryEquiv (φ : E ≃ₗᵢ[ℝ] E)
     (hφ : 0 < LinearMap.det (φ.toLinearEquiv : E →ₗ[ℝ] E)) (x : Fin n → E) :
     o.volumeForm (φ ∘ x) = o.volumeForm x := by
-  rcases n with - | n -- Porting note: need to explicitly prove `FiniteDimensional ℝ E`
+  rcases n with - | n
   · refine o.eq_or_eq_neg_of_isEmpty.elim ?_ ?_ <;> rintro rfl <;> simp
-  haveI : FiniteDimensional ℝ E := .of_fact_finrank_eq_succ n
+  have : FiniteDimensional ℝ E := .of_fact_finrank_eq_succ n
```
Comment (Vierkantor) [inline Mathlib/Analysis/InnerProductSpace/Orientation.lean:310]: Reasoning: This can't be a (local) instance either.

File: Mathlib/Analysis/Normed/Group/SemiNormedGrp/Kernels.lean [hunk 8]
```diff
@@ -39,10 +39,6 @@ def cokernelCocone {X Y : SemiNormedGrp₁.{u}} (f : X ⟶ Y) : Cofork f 0 :=
       f.hom.1.range.normedMk (NormedAddGroupHom.isQuotientQuotient _).norm_le)
     (by
       ext x
-      -- Porting note(https://github.com/leanprover-community/mathlib4/issues/5026): was
-      -- simp only [ConcreteCategory.comp_apply, Limits.zero_comp, NormedAddGroupHom.zero_apply,
-      -- SemiNormedGrp₁.mkHom_apply, SemiNormedGrp₁.zero_apply,
-      -- ← NormedAddGroupHom.mem_ker, f.1.range.ker_normedMk, f.1.mem_range]
```
Comment (Vierkantor) [inline Mathlib/Analysis/Normed/Group/SemiNormedGrp/Kernels.lean:45]: Reasoning: the current `rw` version doesn't look any worse than the previous `simp` version.

File: Mathlib/Analysis/Normed/Ring/Lemmas.lean [hunk 9]
```diff
@@ -161,12 +161,8 @@ instance (priority := 100) NonUnitalSeminormedRing.toContinuousMul [NonUnitalSem
         convert
           ((continuous_fst.tendsto x).norm.mul
                 ((continuous_snd.tendsto x).sub tendsto_const_nhds).norm).add
-            (((continuous_fst.tendsto x).sub tendsto_const_nhds).norm.mul _)
-        -- Porting note: `show` used to select a goal to work on
```
Comment (Vierkantor) [inline Mathlib/Analysis/Normed/Ring/Lemmas.lean:165]: `show` to select a goal actually does work, although the `·` linter complains. But I didn't see why we wouldn't just inline the argument.

File: Mathlib/Analysis/Seminorm.lean [hunk 10]
```diff
@@ -672,18 +670,14 @@ theorem ball_finset_sup' (p : ι → Seminorm 𝕜 E) (s : Finset ι) (H : s.Non
   induction H using Finset.Nonempty.cons_induction with
   | singleton => simp
   | cons _ _ _ hs ih =>
-    rw [Finset.sup'_cons hs, Finset.inf'_cons hs, ball_sup]
-    -- Porting note: `rw` can't use `inf_eq_inter` here, but `simp` can?
```
Comment (Vierkantor) [inline Mathlib/Analysis/Seminorm.lean:676]: The reason is that `inf_eq_inter` talks about `(fun x y => x \inf y) = ...` instead of the easier to apply `∀ x y, (x \inf y = ...)`. Should we redefine `inf_eq_inter`?

File: Mathlib/Analysis/Fourier/RiemannLebesgueLemma.lean [hunk 11]
```diff
@@ -261,12 +254,14 @@ theorem tendsto_integral_exp_smul_cocompact (μ : Measure V) [μ.IsAddHaarMeasur
...
   congr 1 with v : 1
   congr
-  · -- Porting note: added `congr_arg`
-    apply congr_arg w
-    exact (ContinuousLinearEquiv.symm_apply_apply A v).symm
+  · exact (ContinuousLinearEquiv.symm_apply_apply A v).symm
```
Comment (jcommelin) [inline Mathlib/Analysis/Fourier/RiemannLebesgueLemma.lean]:
```suggestion
  suffices ∫ v, 𝐞 (-w v) • f v ∂μ = ∫ (x : V), 𝐞 (-w (A.symm (Aₘ x))) • f (A.symm (Aₘ x)) ∂μ by
    simpa [Function.comp_apply, integral_map_equiv, Adual]
  simp [Aₘ]
```

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/Analysis/Fourier/RiemannLebesgueLemma.lean (hunk 11 above)
Comment (Vierkantor) [reply Mathlib/Analysis/Fourier/RiemannLebesgueLemma.lean]: Thanks! GitHub doesn't know how to apply the suggestion so I've done it manually.

**Comment by Vierkantor** [comment]
Not sure why it claims `lake exe mk_all` is needed, since no files were added (or removed!). I'm just going to borsify and hope for the best.

bors r+
